### PR TITLE
ShiftRows.v: add inverse_shift_rows proof

### LINKED ISSUE #296: Prove that inverse-shift-rows implements inverse of shift-rows
Related to and partially dependent on #294

Once we have a specification for `shift_rows` and `inv_shift_rows`, we need to prove the usual inverse property: forall x, shift_rows (shift_rows x) = x. For `shift_rows`, it should be a fairly straightforward proof.

### PR DESCRIPTION
**Pull request by smore-lore**
This replaces the placeholder shift rows/inv shift rows definition
with one which is slightly easier to prove things about, and it
proves the inverse property for these functions.

closes #296

### CODE REVIEW

File: silveroak-opentitan/aes/Spec/ShiftRows.v [hunk 1]
```diff
@@ -0,0 +1,170 @@
...
+    Proof.
+      unfold shift_rows.
+      unfold inv_shift_rows.
+
+      rewrite map2_length.
+      rewrite seq_length.
+      rewrite Min.min_idempotent.
+
+      rewrite map2_map2_r.
+      rewrite map2_inverse_shift_row_in_fun.
```
Comment (jadephilipoom) [inline silveroak-opentitan/aes/Spec/ShiftRows.v:126]: If you want, I think you can avoid factoring out `map2_inverse_shift_row_in_fun` here:
```suggestion
      erewrite map2_ext by (intros; rewrite inverse_shift_row; instantiate_app_by_reflexivity).
```

File: silveroak-opentitan/aes/Spec/ShiftRows.v [hunk 2]
```diff
@@ -0,0 +1,170 @@
...
+
+    Lemma inverse_shift_row a n : inv_shift_row (shift_row a n) n = a.
+    Proof.
+      generalize dependent a.
+      induction n; intros.
+      { simpl.
+        rewrite inv_shift_row_O.
+        reflexivity. }
+      { assert (S n = n + 1) as Snp1 by lia.
+        rewrite Snp1.
```
Comment (jadephilipoom) [inline silveroak-opentitan/aes/Spec/ShiftRows.v:98]:
```suggestion
      { replace (S n) with (n+1) by lia.
```

**Review by jadephilipoom — APPROVED** [review]
LGTM. Great work, thanks!

File: silveroak-opentitan/aes/Spec/ShiftRows.v (hunk 1 above)
Comment (smore-lore) [reply silveroak-opentitan/aes/Spec/ShiftRows.v]: Done

File: silveroak-opentitan/aes/Spec/ShiftRows.v (hunk 2 above)
Comment (smore-lore) [reply silveroak-opentitan/aes/Spec/ShiftRows.v]: done, thanks!
